US05914339
5-{(2R)-2-[(2R)-2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic aicd bis-(2,2-dimethyl-3-phenyl-propyl) ester
The title compound was prepared from 5-{2 -[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid and 2,2-dimethyl-3-phenylpropanol according to the procedure of Example 1 as an off-white solid; 1H NMR (DMSO-d6,400 MHz) δ 0.82 (s, 12H, 4×CH3), 1.08 (d, J=6.37 Hz, 3H, CH3), 2.6 (m, 1H, CH), 3-3.3 (m, 3H, CH, CH2), 3.4 (brs, 1H, CH), 3.96 (s, 4H, OCH2, OCH2), 5.04 (m, 1H, CH), 6.35 (d, J=4.17 Hz, 1H, OH), 6.89 (dd, J=8.13, 1.53 Hz, 1H, Ar--H), 7.05 (m, 4H, Ar--H), 7.14 (m, 8H, Ar--H), 7.38-7.42 (m, 3H, Ar--H), 7.5 (s, 1H, Ar--H), 8.81 (brs, 1H, NH), 9.38 (brs, 1H, NH); IR (KBr, cm-) 3400 (OH), 2900 (NH), 1760 (CO); MS m/e 714 (M+H)+ ; Analysis for: C42H48ClNO7 ×HCl: Calc'd: C, 67.19; H, 6.58; N, 1.87; Found: C, 66.69; H, 6.53; N, 1.83.

reactant | 5-{2 -[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid | ClC=1C=C(C=CC1)C(CNC(CC1=CC2=C(OC(O2)(C(=O)O)C(=O)O)C=C1)C)O | C20H20ClNO7
reactant | 2,2-dimethyl-3-phenylpropanol | CC(CO)(CC1=CC=CC=C1)C | C11H16O
reactant | KBr | [K+].[Br-]
reactant | HCl | Cl | ClH
product | 5-{(2R)-2-[(2R)-2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic aicd bis-(2,2-dimethyl-3-phenyl-propyl) ester | CC(COC(=O)C1(OC2=C(O1)C=CC(=C2)C[C@@H](C)NC[C@H](O)C2=CC(=CC=C2)Cl)C(=O)OCC(CC2=CC=CC=C2)(C)C)(CC2=CC=CC=C2)C | C42H48ClNO7
